US04818756
Preparation of N-(3-(4-(2-pyrimidinyl)-1-piperazinyl)propyl)-2-aminobenzamide
0.02 mol of 1-(3-aminopropyl)-4-(2-pyrimidinyl)piperazine is dissolved in 100 ml of absolute dimethylformamide, 0.02 mol of isatoic anhydride is added, and the mixture is stirred for 1 hour. It is diluted with 50 ml of water, shaken with ethyl acetate and the organic phase is evaporated. Purification is by column chromatography over silica gel 60. After elution with methylene chloride/emthanol 93:7, the resulting oil can be crystallised from ethyl acetate with isopropyl ether.

reactant | 1-(3-aminopropyl)-4-(2-pyrimidinyl)piperazine | 0.02 mol | NCCCN1CCN(CC1)C1=NC=CC=N1 | C11H19N5
reactant | isatoic anhydride | 0.02 mol | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | N-(3-(4-(2-pyrimidinyl)-1-piperazinyl)propyl)-2-aminobenzamide | N1=C(N=CC=C1)N1CCN(CC1)CCCNC(C1=C(C=CC=C1)N)=O | C18H24N6O
